US06417186B1
A mixture of 3-(4-aminophenyl)-1-(4-fluorophenyl)propan-1-one (1.17 g, 4.81 mmol) and 2-chloro-4,5-dihydro-1H-imidazole sulfate (1.95 g, 9.62 mmol) (prepared according to the procedure described in Trani, A and Bellasio, E., J. Het. Chem. 1974, 11, 257) in 2-propanol (20 mL) was heated under reflux for 15 minutes. The reaction mixture was cooled and diluted with ethyl acetate (150 mL) and washed with 5% sodium hydroxide solution, water, and brine. The organic layer was separated and dried with potassium carbonate, and evaporated in vacuo. Purification by silica gel chromatography, eluting with 10% methanol/dichloromethane containing 1% ammonium hydroxide, gave 3-[4-(4,5-dihydro-1H-imidazol-2-ylamino)phenyl]-1-(4-fluorophenyl)propan-1-one as an oil (1.01 g, 76.5%). The oil was converted to the hydrochloride salt, m.p. 190.2-190.8° C. Analysis for C18H19CIFN3O.0.2H20: Calcd.: C, 61.52; H, 5.56, N, 11.96. Found: C, 61.40; H, 5.47; N, 11.97.

reactant | 3-(4-aminophenyl)-1-(4-fluorophenyl)propan-1-one | 4.81 mmol, 1.17 g | NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)F | C15H14FNO
reactant | 2-chloro-4,5-dihydro-1H-imidazole sulfate | 9.62 mmol, 1.95 g | S(=O)(=O)(O)O.ClC=1NCCN1
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-(4,5-dihydro-1H-imidazol-2-ylamino)phenyl]-1-(4-fluorophenyl)propan-1-one | 1.01 g, 76.5% | N1C(=NCC1)NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)F | C18H18FN3O
